US07517995B2
2-(4-ethyl-thiazol-2-yl)-ethylamine hydrobromide (XV.7)
2.00 g (9.50 mmol) tert.butyl N(3-amino-3-thioxopropyl)carbamate and 1.58 g (10.45 mmol) 1-bromo-2-butanone are refluxed in 40 ml of ethanol for 16 hours with stirring. The reaction mixture is evaporated down, the residue is purified by chromatography.

reactant | tert.butyl N(3-amino-3-thioxopropyl)carbamate | 9.50 mmol, 2.00 g | NC(CCNC(OC(C)(C)C)=O)=S | C8H16N2O2S
reactant | 1-bromo-2-butanone | 10.45 mmol, 1.58 g | BrCC(CC)=O | C4H7BrO
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(4-ethyl-thiazol-2-yl)-ethylamine hydrobromide | Br.C(C)C=1N=C(SC1)CCN | InChI=1S/C7H12N2S.BrH/c1-2-6-5-10-7(9-6)3-4-8;/h5H,2-4,8H2,1H3;1H
